US07482456B2
Step 1: 3-bromo-5-(2H-tetraazol-5-yl)pyridine
A solution of 3-bromo-5-cyanopyridine (1 eq), sodium azide (1.2 eq), triethylamine (1.2 eq) and AcOH (1.2 eq) was stirred at 100C for 14 h. The reaction mixture was cooled to rt, diluted with aqueous acetic acid solution and extracted with EtOAc. The organic extracts were washed with brine, dried over MgSO4, filtered and concentrated to afford the title compound.

reactant | 3-bromo-5-cyanopyridine | 1 eq | BrC=1C=NC=C(C1)C#N | C6H3BrN2
reactant | sodium azide | 1.2 eq | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine | 1.2 eq | C(C)N(CC)CC | C6H15N
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | AcOH | 1.2 eq | CC(=O)O | C2H4O2
product | 3-bromo-5-(2H-tetraazol-5-yl)pyridine | BrC=1C=NC=C(C1)C=1N=NNN1 | C6H4BrN5
